US08071581B2
Step 2: (2-methyl-quinolin-6-yl)-acetic acid
To a solution of (2-methyl-quinolin-6-yl)-acetic acid ethyl ester (100 mg, 0.436 mmol) in methanol (2 mL) was added 4 M aqueous solution of lithium hydroxide (0.55 mL, 2.18 mmol). The reaction mixture was stirred at room temperature for 14 h then it was concentrated in vacuo, diluted with water, and treated with 1 N aqueous hydrochloric acid until pH 5. The aqueous layer was extracted with ethyl acetate (3×), and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to provide 19 mg of product as a light beige solid. 1H NMR 500 MHz (DMSO) δ 2.65 (s, 3H), 3.76 (s, 2H), 7.40 (d, 1H), 7.60 (dd, 1H), 7.77 (d, 1H), 7.86 (d, 1H), 8.20 (d, 1H); MS (m/z) 202 [M+H+]+.

reactant | (2-methyl-quinolin-6-yl)-acetic acid ethyl ester | 0.436 mmol, 100 mg | C(C)OC(CC=1C=C2C=CC(=NC2=CC1)C)=O | C14H15NO2
reactant | lithium hydroxide | 2.18 mmol, 0.55 mL | [OH-].[Li+]
solvent | methanol | 2 mL | CO | CH4O
product | (2-methyl-quinolin-6-yl)-acetic acid | 19 mg | CC1=NC2=CC=C(C=C2C=C1)CC(=O)O | C12H11NO2
